US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-N2-(9-ethyl-9H-carbazol-3-yl)-N1-phenyl-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, isocyanatobenzene, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 67% purity by LC/MS. MS(ESI+): m/z=496.4.

reactant | (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | isocyanatobenzene | N(=C=O)C1=CC=CC=C1 | C7H5NO
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-4-[(allyloxy)imino]-N2-(9-ethyl-9H-carbazol-3-yl)-N1-phenyl-1,2-pyrrolidinedicarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(=O)NC1=CC=CC=C1)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C29H29N5O3
